US07378525B2
4-[4-(2-Chloro-phenylcarbamoyl)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid dimethylamide (F-23)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid (2-chloro-phenyl)-amide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and dimethylcarbamyl chloride for ethyl chloroformate. Wt.: 28 mg (36%). 1H NMR (300 MHz, CDCl3) δ 8.69 (d, 1H), 8.60 (d, 1H), 8.47 (d, 1H), 8.35 (d, 1H), 8.20 (s, 1H), 7.82 (d, 1H), 7.72 (m, 2H), 7.43 (m, 2H), 7.17 (m, 1H), 4.83 (d, 1H), 3.46 (m, 2H), 3.31 (m, 1H), 2.71 (s, 6H), 2.70 (m, 2H), 1.67 (m, 2H), 1.35 (m, 2H); LC/MS m/z 516 (M+H)+.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-[4-(2-Chloro-phenylcarbamoyl)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(NC1=C(C=CC=C1)Cl)=O)C | C25H27ClN4O4S
